US06538004B2
4-bromo-3-nitrobenzaldehyde
A suspension of sodium nitrate (1.37 g, 16.2 mmol) in concentrated sulfuric acid (15 mL) was stirred at 10° C. until a homogeneous solution was obtained. The solution was treated with 4-bromobenzaldehyde (2.50 g, 13.5 mmol) in portionwise fashion over a 20 minute period. The mixture was poured onto ice (50 g) and the resulting pale yellow precipitate was collected by filteration. The precipitate was washed with copious amounts of water and then dried at 30° C. under reduced pressure to provide the title compound (2.95 g, 12.8 mmol, 95%) as a pale yellow solid. MS (DCI/NH3) m/e 229 (M+H)+.

reactant | sodium nitrate | 16.2 mmol, 1.37 g | [N+](=O)([O-])[O-].[Na+]
reactant | 4-bromobenzaldehyde | 13.5 mmol, 2.50 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
solvent | sulfuric acid | 15 mL | S(O)(O)(=O)=O | H2O4S
product | 4-bromo-3-nitrobenzaldehyde | 12.8 mmol, 2.95 g, 95% | BrC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H4BrNO3
